US08629137B2
3-[6′-chloro-4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
0.41 g (1.5 mmol) 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one and 0.20 g (0.49 mmol) 6-(2,6-dichloro-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one were stirred in 3 mL NMP for 3 h at 120° C. The reaction mixture was purified by preparative HPLC. The fractions containing the product were combined and freeze-dried.

reactant | 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | 1.5 mmol, 0.41 g | COC1=CC2=C(NC(N(CC2)C2CCNCC2)=O)C=C1 | C15H21N3O2
reactant | 6-(2,6-dichloro-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | 0.49 mmol, 0.20 g | ClC1=NC(=CC(=C1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C)Cl | C15H10Cl2N2O3
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | 3-[6′-chloro-4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | ClC1=CC(=CC(=N1)N1CCC(CC1)N1C(NC2=C(CC1)C=C(C=C2)OC)=O)C(=O)C2=CC1=C(N(C(O1)=O)C)C(=C2)C | C30H30ClN5O5
